US08802690B2
Acid Preparation 8: 5-morpholinopicolinic acid
25% KOH (100 mL) was added to 4-[6-(piperidin-1-ylcarbonyl)pyridin-3-yl]morphline (18.3 g), and the mixture was refluxed and then neutralized with HCl. The solution was evaporated in vacuum, and the product was extracted with hot isopropanol to give the title compound (yield 71%, 11.5 g). +ESI MS (M+H) 209.7; 1H NMR (400 MHz, DMSO-d6) δ ppm 8.34 (br. s., 1H), 8.03 (d, 1H), 7.65 (dd, 1H), 3.75 (br. s., 4H), 3.40 (br. s., 4H).

reactant | 4-[6-(piperidin-1-ylcarbonyl)pyridin-3-yl]morphline | 18.3 g | N1(CCCCC1)C(=O)C1=CC=C(C=N1)N1CCOCC1 | C15H21N3O2
reactant | HCl | Cl | ClH
reactant | KOH | 100 mL | [OH-].[K+]
product | 5-morpholinopicolinic acid | 11.5 g, yield 71% | O1CCN(CC1)C=1C=CC(=NC1)C(=O)O | C10H12N2O3
